US04362728
To a solution of N-(6-chloro-5-oxohexyl)phthalimide (3.4 g.) in ethanol was added N-(2,2,2-trifluoroethylamidino)-thiourea (2.75 g.) in ethanol (30 ml.). The mixture was heated under reflux for 2 hours and the reaction mixture concentrated to small volume by evaporation. Following treatment of the resulting solution with ether until the solution was just turbid, crystalline 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-phthalimidobutyl)thiazole hydrochloride (3.6 g.) was precipitated. This material (2.1 g.) in ethanol (20 ml.) and water (5 ml.) was heated to boiling and the solution pH was adjusted to 12 by addition of 2 N sodium hydroxide. After heating on a steam bath for 10 minutes, the solution pH was adjusted to 3 with conc. hydrochloric acid and heating continued for a further 0.5 hour. The solution was cooled, adjusted to pH 12 with 2 N sodium hydroxide and extracted with ethyl acetate (2×30 ml.). Evaporation of the washed (H2O), dried (magnesium sulphate) extract gave 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)-thiazole as a pale yellow gum which was used without further purification.

reactant | N-(6-chloro-5-oxohexyl)phthalimide | 3.4 g | ClCC(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H14ClNO3
reactant | N-(2,2,2-trifluoroethylamidino)-thiourea | 2.75 g | FC(CNC(=N)NC(=S)N)(F)F | C4H7F3N4S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)-thiazole | FC(CN=C(NC=1SC=C(N1)CCCCN)N)(F)F | C10H16F3N5S
